US08383644B2
(S)-2-{[(3S,8S)-3-{4-[2-(4-Chloro-phenyl)-ethoxy]-phenyl}-7-((R)-1-phenyl-ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(3S,8S)-8-{(S)-2-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethyl-carbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (30 mg) was dissolved in DCM and 2(4-chloro-phenyl)-ethanol (5 equiv), triphenyl phosphine (5 eq.) and DIAD (4.5 eq.) added. The reaction mixture stirred at room temperature and was directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH). The resulting compound was dissolved in 2 mL DCM and 1 mL 4N HCl (dioxane) was added. The mixture was stirred at room temperature for 1.5 hours and was concentrated. The residue was suspended in DCM, and TEA (3 eq.) was added to the mixture used in the following reaction sequence. ((R)-1-isocyanato-ethyl)-benzene (5 eq.) was added and reaction stirred at room temperature for 1 hour. The reaction mixture was directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+1% MeOH to 1:1 hexanes EtOAc+2% MeOH to 1:1 hexanes EtOAc+3% MeOH). The resulting compound was hydrolyzed according to General Procedure B to give the title compound. LCMS (m/z): 866.

reactant | (3S,8S)-8-{(S)-2-[4-(2,3-Dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethyl-carbamoyl}-3-(4-hydroxy-phenyl)-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 30 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)O | C40H43N3O8
reactant | 2(4-chloro-phenyl)-ethanol | 5 equiv | ClC1=CC=C(C=C1)CCO | C8H9ClO
reactant | triphenyl phosphine | 5 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 4.5 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | ((R)-1-isocyanato-ethyl)-benzene | 5 eq. | N(=C=O)[C@H](C)C1=CC=CC=C1 | C9H9NO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (S)-2-{[(3S,8S)-3-{4-[2-(4-Chloro-phenyl)-ethoxy]-phenyl}-7-((R)-1-phenyl-ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | ClC1=CC=C(C=C1)CCOC1=CC=C(C=C1)[C@@H]1OC=2C(=CC=3C[C@H](N(CC3C2)C(N[C@H](C)C2=CC=CC=C2)=O)C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)C2=C(C(=NC=C2)C)C)OC1 | C51H49ClN4O7
